US04166115
A mixture of ethyl 2-hydroxyimino-4-bromoacetoacetate (a mixture of syn and anti isomers) (22.0 g.), thioacetamide (7.5 g.) and benzene (100 ml.) was refluxed for 3 hours. After cooling triethylamine (10 g.) was added thereto and the mixture was stirred for 1 hour. An insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give ethyl 2-hydroxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetate (a mixture of syn and anti isomers) (8.6 g.). This substance was subjected to column chromatography on silica gel (80 g.) using benzene as developing solvent. Firstly the eluate containing anti isomer was eluted, collected and concentrated to give ethyl 2-hydroxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetate (anti isomer) (2.5 g.), mp 90° to 92° C.

reactant | ethyl 2-hydroxyimino-4-bromoacetoacetate | ON=C(C(=O)OCC)C(=O)CBr | C6H8BrNO4
reactant | thioacetamide | 7.5 g | C(C)(=S)N | C2H5NS
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
product | ethyl 2-hydroxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetate | ON=C(C(=O)OCC)C=1N=C(SC1)C | C8H10N2O3S
